US08349824B2
The product was prepared in the same manner as described in example 62 using 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid (140 mg, 0.379 mmole) and 2-methoxyethanamine (163 l, 1.9 mmole) as starting materials. The reactions affords 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-N-(2-methoxyethyl)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxamide (32 mg, 19.8%) as a white solid. mp: 159-161° C., MS: m/z=427.3 (M+H+).

reactant | 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylic acid | 0.379 mmole, 140 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)O)C | C16H15N7O4
reactant | 2-methoxyethanamine | 1.9 mmole, 163 l | COCCN | C3H9NO
product | 7-(4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamido)-N-(2-methoxyethyl)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxamide | 32 mg, 19.8% | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)NCCOC)C | C19H22N8O4
